US06756374B2
1-(4-Nitrophenyl)piperazine (20 g, 96.5 mmol) (Acros Organics) was dissolved in dioxane (300 mL), and diisopropylethylamine (13.7 g, 106 mmol) (Aldrich) was added. To the solution was added di-tert-butyl dicarbonate (21 g, 96.6 mmol). After stirring overnight, the mixture was poured into water (1 L) and stirred for 10 minutes. The aqueous layer was extracted with ethyl acetate (2×500 mL) and the combined organic extracts were dried over MgSO4, filtered, and evaporated in vacuo. The residue was recrystalized from a mixture of ethyl acetate/hexane to provide 4-(4-nitrophenyl)-1-piperazinecarboxylic acid, 1,1-dimethylethyl ester (22.7 g, 77%).

reactant | 1-(4-Nitrophenyl)piperazine | 96.5 mmol, 20 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | diisopropylethylamine | 106 mmol, 13.7 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 96.6 mmol, 21 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 1 L | O | H2O
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | 4-(4-nitrophenyl)-1-piperazinecarboxylic acid, 1,1-dimethylethyl ester | 22.7 g, 77% | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21N3O4
